US06797718B2
Under a nitrogen atmosphere, 2,6,7-trimethyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridine (4 g) from Part D and ammonium acetate (40 g) were heated in a sealed tube to 150° C. After 46.5 hours, NMR analysis indicated that only 7% of the starting material remained. The reaction mixture was cooled to ambient temperature, diluted with ethyl acetate, and washed 3 times with IN potassium hydroxide and once with water. The organic layers were dried with magnesium sulfate and concentrated under reduced pressure. The resulting oil was triturated with 90/10 diethyl ether/toluene and the filtered solids were dried under vacuum at 45° C. The pale yellow solid was dissolved in 10% hydrochloric acid and extracted 3 times with dichloromethane (DCM). Potassium hydroxide was added to the aqueous layer to bring the pH to 14, and this was subsequently washed 3 times with DCM. The combined organic layers were washed once with water, 3 times with brine, dried with magnesium sulfate, and concentrated under reduced pressure. The oil was purified by column chromatography over silica using 97/3 DCM/methanol as the eluant. The oil was then triturated with diethyl ether/toluene and the resulting solid was recrystallized from ethyl acetate/hexane to yield 2,6,7-trimethyl-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine, m.p. 108.6-109.5° C.

reactant | 2,6,7-trimethyl-4-phenoxy-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridine | 4 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCOCCCC=1C=NC=CC1 | C25H28N4O2
reactant | ammonium acetate | 40 g | C(C)(=O)[O-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,6,7-trimethyl-1-[2-(3-pyridin-3-ylpropoxy)ethyl]-1H-imidazo[4,5-c]pyridin-4-amine | CC=1N(C2=C(C(=NC(=C2C)C)N)N1)CCOCCCC=1C=NC=CC1 | C19H25N5O
